US08048899B2
To a solution of 4.26 g (23.15 mmol) of 2-fluoro-4-methoxybenzoic acid hydrazide in water (100 mL) are added 12.9 g (46.3 mmol) of S-methylpseudothiourea and 1.9 g (46.3 mmol) of sodium hydroxide pellets. The reaction is stirred at room temperature for 7 d. The reaction mixture is filtered and washed with water (50 mL). The solid is dried under reduced pressure at 40° C., then melted at 220° C. to give 2.22 g (9.82 mmol) of 2-fluoro-4-methoxybenzoic acid diaminomethylene hydrazide. Yield: 42%, ES-MS: m/z. The solid is melted at 220° C. to give 1.735 g (8.34 mmol) of 5-(2-fluoro-methoxyphenyl)-4H-[1,2,4]triazol-3-ylamine. Yield 36%, ES-MS: m/z 209 [M+H].

reactant | 2-fluoro-4-methoxybenzoic acid hydrazide | 23.15 mmol, 4.26 g | FC1=C(C(=O)NN)C=CC(=C1)OC | C8H9FN2O2
reactant | S-methylpseudothiourea | 46.3 mmol, 12.9 g | CSC(N)=N | C2H6N2S
reactant | sodium hydroxide | 46.3 mmol, 1.9 g | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2-fluoro-4-methoxybenzoic acid diaminomethylene hydrazide | 9.82 mmol, 2.22 g, Yield: 42% | NC(N)=NNC(C1=C(C=C(C=C1)OC)F)=O | C9H11FN4O2
